US05106851
7-chloro-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid
7-chloro-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid, ethyl ester (1.35 g) was dissolved into a solution of potassium hydroxide (0.76 g) in ethyl alcohol (15 ml) at room temperature under stirring. A solid soon separated and was recovered by filtration after 2 hours. The solid was dissolved into cold water and hydrochloric acid was added until precipitation of a white solid took place. The title acid was recovered by filtration and after drying 1.0 g were obtained. M.p. 158°-160° C.

reactant | 7-chloro-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid, ethyl ester | 1.35 g | ClC1=CC=C2CC(C(NC2=C1)=O)C(=O)OCC | C12H12ClNO3
reactant | potassium hydroxide | 0.76 g | [OH-].[K+]
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 7-chloro-1,2,3,4-tetrahydro-2-oxo-3-quinoline carboxylic acid | ClC1=CC=C2CC(C(NC2=C1)=O)C(=O)O | C10H8ClNO3
